US07157476B2
3-(3-Chloro-propoxy)-phenylacetic acid:
Methyl 3-(3-chloro-propoxy)-phenylacetate (12.7 g, 52.3 mmol) was dissolved in dioxane (25 mL) and 1N NaOH (53 mL) was added. The mixture was stirred at room temperature for 45 minutes then acidified by addition of 1N hydrochloric acid (60 mL). A white precipitae formed which was filtered, washed with 1N HCl, water and dried. 3-(3-Chloro-propoxy)-phenylacetic acid (11.7 g, 98%). 1H NMR (500 MHz, CDCl3) δ 7.25 (1H, dd), 6.93–6.85 (3H, m), 4.11 (2H, t), 3.79 (2H, t), 3.70 (2H, s), 2.25 (2H, m).

reactant | Methyl 3-(3-chloro-propoxy)-phenylacetate | 52.3 mmol, 12.7 g | ClCCCOC=1C=C(C=CC1)CC(=O)OC | C12H15ClO3
reactant | NaOH | 1N, 53 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 60 mL | Cl | ClH
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-(3-Chloro-propoxy)-phenylacetic acid | ClCCCOC=1C=C(C=CC1)CC(=O)O | C11H13ClO3
